US07696226B2
2-{[(2-methyl-1,3-thiazol-4-yl)methyl]amino}ethanol
2-Methyl-4-(chloromethyl)thiazole (2.24 g) was treated with ethanolamine (11.6 mL, 10 equivalents) in dichloromethane at 25° C. for 16 hrs. The solvent was evaporated and the residue partitioned between ethyl acetate and brine. The organic layer was separated and extracted with ethyl acetate (5×). The organic layers were combined and washed with brine, dried over Na2SO4, and the solvents were evaporated to give 2.4 g (85%) of title compound.

reactant | 2-Methyl-4-(chloromethyl)thiazole | 2.24 g | CC=1SC=C(N1)CCl | C5H6ClNS
reactant | ethanolamine | 11.6 mL, 10 equivalents | C(O)CN | C2H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-{[(2-methyl-1,3-thiazol-4-yl)methyl]amino}ethanol | 2.4 g, 85% | CC=1SC=C(N1)CNCCO | C7H12N2OS
